US06288082B1
4-(3H-Benzotriazol-5-ylamino)-6-methoxy-quinoline-3-carbonitrile
Using an analogous procedure to that described in Example 141, 218.6 mg (1 mmol) of 4-chloro-6-methoxy-3-quinolinecarbonitrile in 10 mL of 2-ethoxyethanol and in the presence of 115.6 mg (1 mmol) of pyridine hydrochloride was reacted with 161.0 mg (1.2 mmol) of 5-aminobenzotriazole to give 302.9 mg (95.8%) of the product as a yellow solid, m.p.>250° C., mass (electrospray, m/e): M+H 316.9. HRCIMS calcd: 316.107 for C17H12N6O(M+), obsd 316.1081

reactant | 4-chloro-6-methoxy-3-quinolinecarbonitrile | 1 mmol, 218.6 mg | ClC1=C(C=NC2=CC=C(C=C12)OC)C#N | C11H7ClN2O
reactant | pyridine hydrochloride | 1 mmol, 115.6 mg | Cl.N1=CC=CC=C1
reactant | 5-aminobenzotriazole | 1.2 mmol, 161.0 mg | NC1=CC2=C(NN=N2)C=C1 | C6H6N4
solvent | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
product | 4-(3H-Benzotriazol-5-ylamino)-6-methoxy-quinoline-3-carbonitrile | 302.9 mg, 95.8% | N1=NNC2=C1C=CC(=C2)NC2=C(C=NC1=CC=C(C=C21)OC)C#N | C17H12N6O
